US04775671
A mixture of 54.7 g (148.7 mmol) of 1-[[(S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole, 100 ml of N,N-dimethylformamide and 8.60 g (156.1 mmol) of propargylamine is stirred at room temperature overnight. The solution obtained is then poured into 500 ml of water, the resulting suspension is filtered under suction and the filter residue is dried. By recrystallization from methylene chloride and ethyl acetate there is obtained (S)-8-chloro-11,12,13,13a-tetrahydro-N-(2-propynyl)-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamide of melting point 233°-235°.

reactant | 1-[[(S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole | 148.7 mmol, 54.7 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N3C=NC=C3)CCC1)=O | C18H14ClN5O2
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | propargylamine | 156.1 mmol, 8.60 g | C(C#C)N | C3H5N
solvent | water | 500 ml | O | H2O
product | (S)-8-chloro-11,12,13,13a-tetrahydro-N-(2-propynyl)-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamide | ClC1=CC=CC2=C1CN1[C@H](C=3N2C=NC3C(=O)NCC#C)CCC1 | C18H17ClN4O
